US08242125B2
26-A. Methanesulfonic acid 4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]pyridin-2-ylmethyl ester
Methanesulfonyl chloride (0.2 mL, 2.46 mmol) is added to a solution of 5-(2-hydroxymethyl-pyridin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethylphenyl)-amide, Example 25-D, (700 mg, 1.64 mmol) and triethylamine (0.7 mL, 4.92 mmol) in DCM (50 mL) at rt. After 1 h the reaction is partitioned between DCM and saturated aqueous NaHCO3. Organic layer is removed, dried over anhydrous Na2SO4, concentrated and then separated via FCC (EtOAc/heptanes 2:4 to EtOAc/heptanes 9:1) to give the title compound. MS (ESI) m/z 506.0 (M+1).

reactant | Methanesulfonyl chloride | 2.46 mmol, 0.2 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(2-hydroxymethyl-pyridin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethylphenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CO)(F)F | C22H16F3N3O3
reactant | triethylamine | 4.92 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]pyridin-2-ylmethyl ester | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)COS(=O)(=O)C)(F)F | C23H18F3N3O5S
